US08865713B2
Step A: 5-Methylsulfanyl-2-nitro-4-trifluoromethyl-phenylamine.
To a solution of 5-chloro-2-nitro-4-trifluoromethyl-phenylamine (2.02 g, 8.40 mmol) and DMF (40 mL) was added sodium thiomethoxide (0.618 g, 8.82 mmol). The mixture was heated to 90° C. for 50 min, then poured into brine. Water was added to bring the total volume to 300 mL and the orange precipitate was collected to yield the titled compound (2.02 g, 95%). 1H NMR (400 MHz, CDCl3): 8.42 (s, 1H), 6.51 (s, 1H), 6.39 (br s, 2H), 2.53 (s, 3H).

reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | 8.40 mmol, 2.02 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
reactant | sodium thiomethoxide | 8.82 mmol, 0.618 g | C[S-].[Na+]
reactant | Water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 5-Methylsulfanyl-2-nitro-4-trifluoromethyl-phenylamine | 2.02 g, 95% | CSC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C8H7F3N2O2S
